US07674809B2
29b) 2-phenyl-5-nitrobenzoxazole
Prepared from 2-amino-4-nitrophenol and benzoic acid, in a manner similar to that of Example 9b. Yield: 85%; Rf (9/1 chloroform/methanol): 0.92; Elem. anal. C13H8N2O3; theory C, 65.00; H, 3.35; N, 11.66. found C, 64.54; H, 3.35; N, 11.85. IR (KBr): 1615, 1530, 1345 cm−1.

reactant | 2-amino-4-nitrophenol | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | KBr | [K+].[Br-]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-phenyl-5-nitrobenzoxazole | Yield: 85% | C1(=CC=CC=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H8N2O3
